US07834051B2
3,3,5-trimethylpyrrolidine-2,4-dione
To a solution of ethyl 4-{[(benzyloxy)carbonyl]amino}-2,2-dimethyl-3-oxopentanoate (10.5 g) in methanol (150 mL) was added 10% palladium carbon (containing 50% water, 5.0 g), and the mixture was stirred under a hydrogen atmosphere overnight. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The obtained solid was washed with hexane to give the title compound as a colorless solid (yield: 4.00g, 87%).

reactant | ethyl 4-{[(benzyloxy)carbonyl]amino}-2,2-dimethyl-3-oxopentanoate | 10.5 g | C(C1=CC=CC=C1)OC(=O)NC(C(C(C(=O)OCC)(C)C)=O)C | C17H23NO5
solvent | methanol | 150 mL | CO | CH4O
catalyst | palladium carbon | 5.0 g | [C].[Pd]
product | 3,3,5-trimethylpyrrolidine-2,4-dione | yield: 4.00g, 87% | CC1(C(NC(C1=O)C)=O)C | C7H11NO2
